US06747023B1
1-[4-(2-Acetoxymethylpyridin-4-yl)benzoyl]-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine hydrochloride
In acetic anhydride (25 ml), 4-[4-[[4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazin-1-yl]carbonyl]phenyl]-2-methylpyridine N-oxide (900 mg) was dissolved, followed by heating under reflux for 15 minutes. Ethanol (25 ml) was added to the reaction mixture and the resulting mixture was heated under reflux for further 1 hour. To the reaction mixture, dichloromethane and an aqueous solution of sodium bicarbonate were added to separate the organic layer. The organic layer thus obtained was dried over anhydrous sodium sulfate and 775 concentrated under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column (dichloromethane˜1.5% methanol—dichloromethane), followed by crystallization from ethanol. The crystals were dissolved in dichloromethane and the resulting solution was made acidic by the addition of hydrochloric acid in ethanol. The resulting acidic mixture was concentrated, whereby the title compound (842 mg, 87%, pale yellow powder) was obtained.

reactant | 4-[4-[[4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazin-1-yl]carbonyl]phenyl]-2-methylpyridine N-oxide | 900 mg | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(=O)C1=CC=C(C=C1)C1=CC(=[N+](C=C1)[O-])C | C27H24ClN3O4S
reactant | Ethanol | 25 ml | C(C)O | C2H6O
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic anhydride | 25 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1-[4-(2-Acetoxymethylpyridin-4-yl)benzoyl]-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine hydrochloride | 842 mg, 87% | Cl.C(C)(=O)OCC1=NC=CC(=C1)C1=CC=C(C(=O)N2CCN(CC2)S(=O)(=O)C2=CC3=CC=C(C=C3C=C2)Cl)C=C1 | InChI=1S/C29H26ClN3O5S.ClH/c1-20(34)38-19-27-17-25(10-11-31-27)21-2-4-22(5-3-21)29(35)32-12-14-33(15-13-32)39(36,37)28-9-7-23-16-26(30)8-6-24(23)18-28;/h2-11,16-18H,12-15,19H2,1H3;1H
